US05686455
(c) 1-(3-Methylthiophenyl)-2-(4-pyridyl)ethanedione
To a solution of 1-(3-methylthiophenyl)-2-(4-pyridyl)ethanol (2.5 g, 10.2 mmol) in CH2Cl2 (150 mL) was added a mixture of celite (4.4 g) and pyridinium dichromate (4.4 g, 20.4 mmol). After stirring for 12 h, the mixture was filtered through celite. The solvent was removed in vacuo, and the residue was purified by flash chromatography, eluting with a solvent gradient of 40-50% EtOAc/Hex to provide the title compound (144 mg, 5.5%): 1H NMR(CDCl3): δ8.88 (br d, 2H); 7.85 (s, 1H); 7.78 (d, 2H); 7.67(d, 1H); 7.56 (d, 1H); 7.44 (t, 1H); 2.55 (s, 3H).

reactant | 1-(3-methylthiophenyl)-2-(4-pyridyl)ethanol | 10.2 mmol, 2.5 g | CSC=1C=C(C=CC1)C(CC1=CC=NC=C1)O | C14H15NOS
reactant | pyridinium dichromate | 20.4 mmol, 4.4 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Methylthiophenyl)-2-(4-pyridyl)ethanedione | 144 mg, 5.5% | CSC=1C=C(C=CC1)C(C(=O)C1=CC=NC=C1)=O | C14H11NO2S
